US07776875B2
Preparation of Intermediate 1-(4-chloro-2-formyl-phenoxymethyl)-cyclopropanecarbonitrile
To a solution of the crude toluene-4-sulfonic acid 1-cyano-cyclopropylmethyl ester in DMF (30 mL) was added 5-chloro-2-hydroxy-benzaldehyde (5.9 g, 38 mmol) and K2CO3 (10.5 g, 76 mmol) slowly. The reaction mixture was placed in a sealed tube and irradiated by microwave reactor at 75° C. for 30 min. After cooled to room temperature, the mixture was poured into water. The solution was diluted with EtOAc (200 mL), washed with water, dried and concentrated to give the title compound as a black oil (4.76 g). The oil was used for next step reaction directly without further purification.

reactant | toluene-4-sulfonic acid 1-cyano-cyclopropylmethyl ester | C(#N)C1(CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C12H13NO3S
reactant | 5-chloro-2-hydroxy-benzaldehyde | 38 mmol, 5.9 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | K2CO3 | 76 mmol, 10.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 1-(4-chloro-2-formyl-phenoxymethyl)-cyclopropanecarbonitrile | 4.76 g | ClC1=CC(=C(OCC2(CC2)C#N)C=C1)C=O | C12H10ClNO2
